US07205313B2
Preparation of (3S, 4aS, 6S, 8aR)6-(2-carboxy4chloro-phenoxy)-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylic acid hydrochloride
Following the procedures as described in Example 1, step A, a solution of the material from preparation 1 (120 mg, 0.37 mmol), triphenylphosphine (145 mg, 0.55 mmol), ethyl 2-hydroxy-5-chloro-benzoate (73 mg, 0.366 mmol) in tetrahydrofuran (2 mL), was treated with diethylazodicarboxylate (0.090 mL, 0.55 mmol) at room temperature for 16 h. Flash chromatography (silica gel, diethyl ether-hexane 1:2) gave 106 mg (57% yield) of the title compound.

reactant | triphenylphosphine | 0.55 mmol, 145 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl 2-hydroxy-5-chloro-benzoate | 0.366 mmol, 73 mg | OC1=C(C(=O)OCC)C=C(C=C1)Cl | C9H9ClO3
reactant | diethylazodicarboxylate | 0.55 mmol, 0.090 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | diethyl ether hexane | C(C)OCC.CCCCCC
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (3S, 4aS, 6S, 8aR)6-(2-carboxy4chloro-phenoxy)-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylic acid hydrochloride | 106 mg, 57% yield | Cl.C(=O)(O)C1=C(O[C@@H]2C[C@@H]3C[C@H](NC[C@@H]3CC2)C(=O)O)C=CC(=C1)Cl | InChI=1S/C17H20ClNO5.ClH/c18-11-2-4-15(13(7-11)16(20)21)24-12-3-1-9-8-19-14(17(22)23)6-10(9)5-12;/h2,4,7,9-10,12,14,19H,1,3,5-6,8H2,(H,20,21)(H,22,23);1H/t9-,10+,12-,14-;/m0./s1
